2143-05-22 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2143-5-21**] 08:00 PM
 NASAL SWAB - At [**2143-5-21**] 08:00 PM
 INVASIVE VENTILATION - START [**2143-5-21**] 09:35 PM
 MULTI LUMEN - START [**2143-5-21**] 10:21 PM
 ARTERIAL LINE - START [**2143-5-22**] 12:00 AM
 SPUTUM CULTURE - At [**2143-5-22**] 12:19 AM
 URINE CULTURE - At [**2143-5-22**] 12:19 AM
 BLOOD CULTURED - At [**2143-5-22**] 12:19 AM
 FEVER - 101.7
F - [**2143-5-22**] 04:00 AM
   .
   - Admitted to [**Hospital Unit Name 4**] from OSH
   - A-line placed
   - Titrated down TV's to ARDSNet (~400cc) and FiO2 down to 40% from 60%
   (PEEP staying at 12)
   - Febrile to 101.7
   - Respiratory rate acutely increased to 50 overnight, more awake, given
   fentanyl/midazolam boluses, RR came down to 20s
   - Hypotensive this morning with MAPs in the 50s, now responsive to 1L
   NS.  Thus, norepinephrine was started with good response.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2143-5-22**] 12:20 AM
   Vancomycin - [**2143-5-22**] 12:20 AM
   Levofloxacin - [**2143-5-22**] 12:20 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2143-5-22**] 02:20 AM
   Fentanyl - [**2143-5-22**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-22**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 72 (61 - 75) bpm
   BP: 101/41(60) {96/40(55) - 174/67(100)} mmHg
   RR: 22 (18 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     52 mL
                                                                    433 mL
   PO:
             TF:
   IVF:
                                                                     52 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                    320 mL
   Urine:
                                                                    160 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -108 mL
                                                                    113 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 496 (496 - 534) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 27
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.51/34/95.[**Numeric Identifier 253**]/25/3 at 0100
   Ve: 12.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: intubated but awake
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: regular, no murmurs
   Respiratory / Chest: anteriorly there are scant crackles L>R
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, Mucocutaneous crusting in nares, lips
   Neurologic: responds to voice, tracking with eyes, does not follow
   commands (in English)
   Labs / Radiology
   262 K/uL
   10.8 g/dL
   104 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   34 mg/dL
   104 mEq/L
   137 mEq/L
   31.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2143-5-21**]  08:06 PM
                             [**2143-5-21**]  09:42 PM
                             [**2143-5-22**]  01:06 AM
                             [**2143-5-22**]  04:42 AM
   WBC
   10.3
   11.3
   Hct
   31.4
   31.4
   Plt
   268
   262
   Cr
   0.7
   0.8
   TCO2
   28
   28
   Glucose
   134
   104
   Other labs: PT / PTT / INR:13.7/24.0/1.2, ALT / AST:52/49, Alk Phos / T
   Bili:91/0.5, Differential-Neuts:86.4 %, Lymph:7.1 %, Mono:5.2 %,
   Eos:1.2 %, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:249 IU/L,
   Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Blood and urine cx:  NGTD
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   .
   ASSESSMENT/PLAN:
   Mr. [**Known lastname 6672**] is a 77-year-old man with no significant medical history who
   is transferred from an outside hospital for respiratory failure.  .
   .
   #) Respiratory failure:  Initially, this was reasonably thought to be
   likely infectious.  He was treated with appropriate antibiotics for
   most community-acquired bacterial pathogens.  He also had repeated
   cultures from blood, sputum, and BAL fluid that were not revealing as
   to a pathogen.  At this point an infectious etiology seems less likely
   than an inflammatory process (possibly triggered by an infection?) such
   as COOP.
   Time course and acute onset suggests infectious etiology. Less likely
   inflammatory or vasculitic process, doubt malignancy (given acute
   onset, lack of malignancy on pathology). Nosocomial infections also
   possible given > 1 week hospitalization, although no sputum culture
   data to support MRSA or Pseudomonas involvement. Appearance on CXR not
   consistent with fluid overload at this point; recent echo (although
   sub-optimal) showed normal EF.
   - Repeat bronch/BAL in AM; send for viral (HSV, esp given mucocutaneous
   lesions) and fungal studies
   - Continue broad antibiotic coverage with vancomycin, ceftriaxone, and
   levofloxacin for now
   - ARDSNet volumes at 6-7cc/kg (~400cc), try to minimize FiO2, keep on
   current PEEP of 12
   - Will speak to OSH in AM re: fungal (and other micro) stains of
   transbronchial biopsy specimen
   - Pan culture: sputum, urine, blood
   - Repeat echo now not tachycardic
   .
   #) Labile blood pressure:  It is unclear why he is hypotensive after
   having recently been quite hypertensive overnight.  The accompaniment
   of bradycardia is confusing, as he has not received his beta blocker
   He may have a systemic inflammatory response, although no positive
   blood cultures.  Cardiogenic is less likely given reportedly normal EF,
   absence of clinical signs of pulmonary or peripheral edema.  He has not
   received any steroids to put him at risk for adrenal insufficiency.
   - check SvO2
   - check CVP
   -
   .
   #) Tachycardia:  currently bradycardic.  History of tachycardia to
   ?170's at OSH. Started on metoprolol 25mg [**Hospital1 **] and digoxin. Has had
   normal heart rates here.
   - Will check ECG
   - Continue metoprolol, digoxin for now
   #) Mucocutaneous crusting. Concerning for HSV. Noted at OSH (and on
   topical acyclovir), but no documentation of diagnosis. Concern for
   tracheal/bronchial involvement of HSV infection.
   - Tzanck smear of lesions
   - Bronch in AM
   #) Hypoalbuminemia. Was 3.1 on arrival to OSH, acutely dropped at time
   of arrival to [**Hospital1 5**]. Likely low in setting of infection, but will rule
   out albumin loss. No evidence of diarrhea or protein losing
   enteropathy. Check urinalysis for proteinuria. Continue nutrition (tube
   feeds).
   #) F/E/N. No IVF for now, monitor/replete electrolytes. Tube feeds
   according to OSH (Replete with fiber at 70cc/hr). Will obtain nutrition
   consult.
   #) Prophylaxis. Heparin SubQ. Bowel regimen. VAP bundle. H2 blocker.
   #) Communication. With family, phone numbers on board in room.
   #) Access. Resite line (right sub-clavian) tomorrow. Aline tonight.
   #) Code Status. FULL CODE. Consent signed, family aware.
   #) Dispo. Pending clinical improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-5-21**] 10:21 PM
   Arterial Line - [**2143-5-22**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-05-23 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2143-5-22**] 08:03 PM
 MULTI LUMEN - STOP [**2143-5-22**] 10:02 PM
   - CT Chest: No Abx started, no steroids intitated
   - L IJ placed, R Subclavian D/C'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2143-5-22**] 12:20 AM
   Levofloxacin - [**2143-5-22**] 12:20 AM
   Vancomycin - [**2143-5-22**] 08:30 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-5-22**] 04:12 PM
   Midazolam (Versed) - [**2143-5-22**] 07:05 PM
   Fentanyl - [**2143-5-22**] 07:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-23**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 66 (52 - 75) bpm
   BP: 113/48(67) {95/45(60) - 154/75(100)} mmHg
   RR: 25 (7 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (2 - 19)mmHg
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  3,995 mL
                                                                    537 mL
   PO:
   TF:
                                                                    303 mL
                                                                    198 mL
   IVF:
                                                                  3,003 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    540 mL
   Urine:
                                                                  1,150 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,845 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 489 (174 - 670) mL
   PS : 15 cmH2O
   RR (Spontaneous): 27
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 97%
   ABG: 7.50/33/112/21/3 at 5 am
   Ve: 11.3 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: intubated but awake
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: regular, no murmurs
   Respiratory / Chest: anteriorly there are scant crackles L>R
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, Mucocutaneous crusting in nares, lips
   Neurologic: responds to voice, tracking with eyes, does not follow
   commands (in English)
   Labs / Radiology
   266 K/uL
   10.0 g/dL
   138 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   27 mg/dL
   105 mEq/L
   134 mEq/L
   29.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2143-5-21**]  08:06 PM
                             [**2143-5-21**]  09:42 PM
                             [**2143-5-22**]  01:06 AM
                             [**2143-5-22**]  04:42 AM
                             [**2143-5-22**]  06:40 AM
                             [**2143-5-22**]  06:57 AM
                             [**2143-5-23**]  03:49 AM
                             [**2143-5-23**]  05:01 AM
   WBC
   10.3
   11.3
   8.2
   Hct
   31.4
   31.4
   29.2
   Plt
   [**Telephone/Fax (3) 6692**]
   Cr
   0.7
   0.8
   0.6
   TCO2
   28
   28
   28
   26
   27
   Glucose
   134
   104
   138
   Other labs: PT / PTT / INR:14.0/34.9/1.2, ALT / AST:52/49, Alk Phos / T
   Bili:91/0.5, Differential-Neuts:86.4 %, Lymph:7.1 %, Mono:5.2 %,
   Eos:1.2 %, Lactic Acid:1.0 mmol/L, Albumin:1.8 g/dL, LDH:249 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   CT:
   Multifocal bilateral pneumonia with partly consolidated and
   partly non-consolidated lung areas. Extensive air bronchograms and
   areas of
   bronchiectasis, suggesting chronic or recurrent infection. Moderate
   left-
   sided pleural effusion. Borderline size of mediastinal lymph nodes,
   punctate
   parenchymal and left hilar lymph node calcifications. Endotracheal tube
   and
   nasogastric tubes in situ.
   Blood, urine, sputum cx [**5-22**]:  NGTD
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Likely V/Q Mismatch from Fluids, less likely ARDS though P/F Ratio 225
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PANCREATITIS, ACUTE
   Gallstone pancreatitis, s/p ERCP [**5-21**] with sphincterotomy
 CHOLELITHIASIS
 THROMBOCYTOPENIA, ACUTE
   .
   Mr. [**Known lastname 6672**] is a 77-year-old man with no significant medical history who
   is transferred from an outside hospital for respiratory failure.  .
   .
   #) Respiratory failure:  Initially, this was reasonably thought to be
   likely infectious.  He was treated with appropriate antibiotics for
   most community-acquired bacterial pathogens.  He also had repeated
   cultures from blood, sputum, and BAL fluid that were not revealing as
   to a pathogen.  In any case, he would have completed a sufficient
   course for community-acquired pneumonia.  A viral or fungal etiology is
   also possible although perhaps less likely based on lack of
   immunocompromise as well as CXR appearance.  At this point an
   infectious etiology seems less likely than an inflammatory process
   (possibly triggered by an infection?) such as COOP.
   - stop antibiotics
   - repeat non-contrast chest CT today
   - consider steroids if chest CT suggests COOP or other
   steroid-responsive primary inflammatory discorder
   - decrease PEEP as tolerated to maintain oxygenation
   .
   #) Hypotension:   No longer
   He was hypotensive overnight after having been hypertensive yesterday.
   Main differential is distributive vs cardiogenic, and the former is
   more likely given low CVP, recently normal EF at OSH, and absence of
   clinical signs of pulmonary or peripheral edema.  He has not received
   any steroids to put him at risk for adrenal insufficiency.  This
   possibly was secondary to sedation, although the episode was several
   hours after sedation was bolused for hypertension.  PEEP may also
   contribute, although not changed recently.
   - f/u SvO2
   - continue to hold anti-hypertensives
   - wean norepinephrine as tolerated, IVF boluses PRN to maintain MAP >65
   - avoid sedation boluses if possible
   .
   #) Mucocutaneous lesions:  He was being treated empirically for HSV at
   OSH with topical acyclovir.
   - discuss with his family if he has a history of herpetic lesions
   - start empiric acyclovir
   - check DFA for HSV
   #) History of tachycardia:  Currently bradycardic.  He was started on
   metoprolol and digoxin for this recently at OSH.  Digoxin level
   currently 1.
   -  continue metoprolol and digoxin with holding parameters
   #) Hypoalbuminemia:  Albumin has fallen to 1.8 from 3.1 10 days ago.
   This is likely secondary to systemic inflammatory process.
   - continue nutrition with tube feeds (nutrition consult)
   - check urine for urinalysis
   .
   FEN:  tube feeds, replete lytes PRN
   .
   PPX:  heparin SC, bowel regimen, VAP bundle, H2 blocker
   .
   Communication:  patient
s family (phone numbers in room)
   .
   Access:  arterial line, plan to re-site R subclavian today
   #) F/E/N. No IVF for now, monitor/replete electrolytes. Tube feeds
   according to OSH (Replete with fiber at 70cc/hr). Will obtain nutrition
   consult.
   .
   CODE STATUS:  full code
   .
   Dispo:  ICU pending improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2143-5-22**] 12:26 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2143-5-22**] 12:00 AM
   Multi Lumen - [**2143-5-22**] 08:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-05-24 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2143-5-23**] 04:52 PM
   - met I/O goal
   - unremarkable bronch
   - echo ordered
   - DFA sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2143-5-22**] 12:20 AM
   Levofloxacin - [**2143-5-22**] 12:20 AM
   Vancomycin - [**2143-5-22**] 08:30 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2143-5-23**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2143-5-24**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-24**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 61 (55 - 71) bpm
   BP: 113/46(66) {90/36(53) - 133/59(83)} mmHg
   RR: 23 (0 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (2 - 16)mmHg
   Total In:
                                                                  2,432 mL
                                                                    774 mL
   PO:
   TF:
                                                                  1,214 mL
                                                                    484 mL
   IVF:
                                                                    448 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    390 mL
   Urine:
                                                                  2,400 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     32 mL
                                                                    384 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 482 (434 - 727) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   SpO2: 96%
   ABG: 7.51/33/94.[**Numeric Identifier 299**]/23/3 at 4 AM
   Ve: 13.8 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: intubated but awake
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: regular, no murmurs
   Respiratory / Chest: anteriorly there are scant crackles L>R
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, Mucocutaneous crusting in nares, lips
   Neurologic: responds to voice, tracking with eyes, does not follow
   commands (in English)
   Labs / Radiology
   328 K/uL
   9.9 g/dL
   150 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.4 mEq/L
   30 mg/dL
   103 mEq/L
   132 mEq/L
   29.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2143-5-21**]  09:42 PM
                             [**2143-5-22**]  01:06 AM
                             [**2143-5-22**]  04:42 AM
                             [**2143-5-22**]  06:40 AM
                             [**2143-5-22**]  06:57 AM
                             [**2143-5-23**]  03:49 AM
                             [**2143-5-23**]  05:01 AM
                             [**2143-5-23**]  06:21 PM
                             [**2143-5-24**]  03:57 AM
                             [**2143-5-24**]  04:20 AM
   WBC
   11.3
   8.2
   8.2
   Hct
   31.4
   29.2
   29.4
   Plt
   [**Telephone/Fax (3) 6719**]
   Cr
   0.8
   0.6
   0.7
   TCO2
   28
   28
   28
   26
   27
   25
   27
   Glucose
   104
   138
   150
   Other labs: PT / PTT / INR:13.0/36.8/1.1, ALT / AST:40/40, Alk Phos / T
   Bili:95/0.4, Differential-Neuts:76.9 %, Lymph:14.9 %, Mono:6.3 %,
   Eos:1.7 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:237 IU/L,
   Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   BAL [**5-23**]:  no micro-organisms or  PMN
   [**5-23**] viral cx and DFA:  pending
   Sputum cx [**5-22**]:  yeast
   Blood cx [**5-21**]:  NGTD
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   oral mucocutaneous ulceration
 PNEUMONIA, OTHER
   unclear cause
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Mr. [**Known lastname 6672**] is a 77-year-old man with no significant medical history who
   is transferred from an outside hospital for respiratory failure,
   currently of unclear etiology.
   .
   #) Respiratory failure:  He was intubated at OSH and transferred for
   failure to improve from presumed infectious PNA.  We have been
   considering infectious vs inflammatory causes.  CT yesterday appeared
   improved compared to images obtained from OSH, did not show clear
   evidence of COP.  Work-up for infectious causes has been thus far
   negative, but he has received a full course of antibiotics
   (ceftriaxone, levoflox, gent, doxycycline), but a resistent or atypical
   organism remains a possibilitly.  Currently he likely has an element of
   volume overload as well.  Regarding his ventilator status, he continues
   to have very low lung compliance and A-a gradient >100.  Currently he
   also has a respiratory alkalosis .
   - no antibiotics for now
   - repeat BAL today for gram stain and culture including nocardia
   - consider steroids for empiric treatment of an inflammatory condition
   - decrease PSV to improve respiratory alkalosis
   - 20 mg IV lasix now and goal net negative 500 cc today
   .
   #) Mucocutaneous lesions:  He was being treated empirically for HSV at
   OSH with topical acyclovir.
   - continue empiric acyclovir
   - check DFA for HSV
   .
   #) Hypoalbuminemia:  Albumin is stable at 1.8, decreased from 3.1 10
   days ago.  This is likely secondary to systemic inflammatory process
   and malnutrition.  He also has protein in his urine, with an
   protein/creatinine ratio of  .9.   This is unlikely to be substantial
   enough to have caused the acute drop in his serum albumin.
   - continue nutrition with tube feeds
   .
   #) Proteinuria:  This is not nephrotic range, with protein/creatinine
   of .9.  He has a normal creatinine and no evidence of
   glomerulonephritis that would make us think of a pulmonary-renal
   syndrome.  There is no history of diabetes.  That urinalysis also
   showed mild pyuria.
   - f/u urine culture
   - re-check UA
   - continue to monitor
   .
   #) Hypotension:   No further episodes of hypotension.  Cause may have
   been related to sedation.
   - avoid sedation boluses if possible
   .
   #) History of tachycardia:  Currently normal rate.  He was started on
   metoprolol and digoxin for tachycardia recently at OSH.
   -  continue metoprolol and digoxin with holding parameters
   .
   FEN:  tube feeds, replete lytes PRN
   .
   PPX:  heparin SC, bowel regimen, VAP bundle, H2 blocker
   .
   Communication:  patient
s family (phone numbers in room)
   .
   Access:  arterial line, LIJ
   FEN:. monitor/replete electrolytes, tube feeds
   .
   CODE STATUS:  full code
   .
   Dispo:  ICU pending improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2143-5-22**] 12:26 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2143-5-22**] 12:00 AM
   Multi Lumen - [**2143-5-22**] 08:03 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:   family, phone numbers in room
   Code status: full code
   Disposition: ICU

2143-05-26 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2143-5-25**] 12:00 PM
 PICC LINE - START [**2143-5-25**] 07:03 PM
 ARTERIAL LINE - STOP [**2143-5-26**] 04:45 AM
   - Had increased 02 requirements over the course of yesterday.
   - Central line and a-line both accidentally lost
   - poor performance on PSV; trach discussion begun with family
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2143-5-25**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2143-5-25**] 09:49 AM
   Fentanyl - [**2143-5-25**] 12:43 PM
   Heparin Sodium (Prophylaxis) - [**2143-5-26**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-26**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 65 (59 - 77) bpm
   BP: 109/55(68) {106/51(64) - 109/55(68)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (15 - 15)mmHg
   Total In:
                                                                  2,386 mL
                                                                    539 mL
   PO:
   TF:
                                                                  1,680 mL
                                                                    498 mL
   IVF:
                                                                    216 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    360 mL
   Urine:
                                                                  1,710 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    676 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 444 (444 - 444) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/48/78.[**Numeric Identifier 7**]/26/3
   Ve: 8.7 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   326 K/uL
   9.7 g/dL
   138 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.7 mEq/L
   30 mg/dL
   100 mEq/L
   131 mEq/L
   28.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2143-5-23**]  06:21 PM
                             [**2143-5-24**]  03:57 AM
                             [**2143-5-24**]  04:20 AM
                             [**2143-5-24**]  01:26 PM
                             [**2143-5-25**]  04:02 AM
                             [**2143-5-25**]  04:23 AM
                             [**2143-5-25**]  11:07 AM
                             [**2143-5-25**]  01:03 PM
                             [**2143-5-26**]  04:44 AM
                             [**2143-5-26**]  05:08 AM
   WBC
   8.2
   8.3
   8.0
   Hct
   29.4
   28.5
   28.8
   Plt
   328
   314
   326
   Cr
   0.7
   0.6
   0.6
   TCO2
   25
   27
   27
   30
   22
   28
   31
   Glucose
   150
   108
   138
   Other labs: PT / PTT / INR:13.2/27.8/1.1, ALT / AST:40/40, Alk Phos / T
   Bili:95/0.4, Differential-Neuts:76.9 %, Lymph:14.9 %, Mono:6.3 %,
   Eos:1.7 %, Lactic Acid:1.0 mmol/L, Albumin:1.9 g/dL, LDH:237 IU/L,
   Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR [**5-25**]: NO SIGNIFICANT CHANGE
   CXR [**5-26**]:
   Microbiology: BCX [**5-21**], [**5-22**] NGTD
   UCX YEAST X 3
   Sputum Cx yeast
   BAL no organisms or PMN
   HSV swab pending
   Assessment and Plan
 PNEUMONIA, OTHER
   unclear cause
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   Underlying emphysema
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   oral mucocutaneous ulceration, urine eosinophilia
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
 DELIRIUM / CONFUSION
   Mr. [**Known lastname 6672**] is a 77-year-old man with no significant medical history who
   is transferred from an outside hospital for respiratory failure
   secondary to PNA overlying COPD.
   #) Respiratory failure:  Not ready to wean yet.  Broncoscopy
   unrevealing, no evidence of infection. Likely has bad pneumonia on top
   of baseline emphysema.   RSBI and current status indicative that he can
   not be extubated today.  Echo yesterday basically normal, likely not a
   big component of volume overload.
   - discuss with family the possibility of trach
   - no antibiotics
   - wean vent as tolerated, although likely not ready for extubation yet
   - goal net even
   .
   #) Mucocutaneous lesions:  He was being treated empirically for HSV at
   OSH with topical acyclovir.  DFA negative for HSV, culture pending.
   Low suspicion for Zoster given b/l lesions.
   - will send pictures to dermatology consultant for review
   - continue empiric acyclovir
   .
   #) Delirium:  Multiple reasons for delirium including shortness of
   breath/hypoxia as well as prolonged ICU course and critical illness.
   - AC ventilation for rest
   .
   #) Hypoalbuminemia:  Albumin is stable at 1.9 today, decreased from 3.1
   10 days ago.  This is likely secondary to systemic inflammatory process
   and malnutrition.  He also has significant albuminuria.
   - continue nutrition with tube feeds
   .
   #) Proteinuria:  Normal creatinine and no evidence of
   glomerulonephritis that would make us think of a pulmonary-renal
   syndrome.  There is no history of diabetes.  Significant protein in
   urine on repeat despite changing Foley.  Cultures are no growth to
   date.
   - discuss with renal
   .
   #) Eosinophiliuria:  he has eosinophils in his urine.  He also has a
   rash on his back.  New meds include famotidine and acyclovir.
   - check peripheral eosinophils
   - stop famotidine
   .
   #) Hyponatremia:  mild, free water in TF stopped yesterday
   - urine osms
   - continue to monitor
   .
   #) Hypotension:   No further episodes of hypotension.  Cause may have
   been related to sedation.
   - avoid sedation boluses if possible
   .
   #) History of tachycardia:  Currently normal rate.  He was started on
   metoprolol and digoxin for tachycardia recently at OSH.   This were
   discontinued yesterday and he has not been tachycardic again.
   .
   FEN:  tube feeds, replete lytes PRN
   .
   PPX:  heparin SC, bowel regimen, VAP bundle, H2 blocker
   .
   Communication:  patient
s family (phone numbers in room)
   .
   FEN:. monitor/replete electrolytes, tube feeds
   .
   CODE STATUS:  full code
   .
   Dispo:  ICU pending improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2143-5-25**] 11:00 PM 70 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-5-25**] 12:49 PM
   PICC Line - [**2143-5-25**] 07:03 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:

2143-05-27 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2143-5-27**] 12:00 AM
   - Stable overnight with no changes in mgt. FIo2 decreased in response
   to ABG.
   - Fungal Rash vs Drug rash spreading over torso, previously only on
   dependent portions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2143-5-25**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-5-27**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-27**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 66 (65 - 79) bpm
   BP: 107/49(67) {100/45(0) - 113/51(351)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,873 mL
                                                                    588 mL
   PO:
             TF:
                                                                  1,540 mL
                                                                    487 mL
   IVF:
                                                                    143 mL
                                                                     42 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    290 mL
   Urine:
                                                                  1,170 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    703 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/49/81.[**Numeric Identifier 252**]/27/2
   Ve: 7.5 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   327 K/uL
   9.7 g/dL
   133 mg/dL
   0.7 mg/dL
   27 mEq/L
   5.0 mEq/L
   31 mg/dL
   100 mEq/L
   129 mEq/L
   27.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2143-5-24**]  01:26 PM
                             [**2143-5-25**]  04:02 AM
                             [**2143-5-25**]  04:23 AM
                             [**2143-5-25**]  11:07 AM
                             [**2143-5-25**]  01:03 PM
                             [**2143-5-26**]  04:44 AM
                             [**2143-5-26**]  05:08 AM
                             [**2143-5-26**]  11:33 PM
                             [**2143-5-27**]  04:48 AM
                             [**2143-5-27**]  04:52 AM
   WBC
   8.3
   8.0
   8.5
   Hct
   28.5
   28.8
   27.9
   Plt
   [**Telephone/Fax (3) 6762**]
   Cr
   0.6
   0.6
   0.7
   TCO2
   27
   30
   22
   28
   31
   30
   30
   Glucose
   108
   138
   133
   Other labs: PT / PTT / INR:13.8/33.4/1.2, ALT / AST:51/52, Alk Phos / T
   Bili:96/0.3, Differential-Neuts:79.0 %, Lymph:14.2 %, Mono:5.1 %,
   Eos:1.5 %, Fibrinogen:631 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, LDH:201 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR:
   Microbiology: BCX NGTD
   UCX YEAST
   SPUTUM YEAST, SECOND SPUTUM NGTD
   BAL CLEAN
   DFA negative
   Assessment and Plan
 .H/O FUNGAL INFECTION, OTHER
 PNEUMONIA, OTHER
   unclear cause
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   Underlying emphysema
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   oral mucocutaneous ulceration, urine eosinophilia
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
 DELIRIUM / CONFUSION
   Mr. [**Known lastname 6672**] is a 77-year-old man with no significant medical history who
   is transferred from an outside hospital for respiratory failure
   secondary to PNA overlying COPD.
   #) Respiratory failure: Initial bronchoscopy unrevealing, no evidence
   of current infection
no Abx. Do not believe that this is COP
   steroids.  Current lung findings likely the consequence of impaired
   ability to clear treated PNA b/c of severe underlying emphysema.
   Failed PSV on Saturday, this has been basis of decision to pursue
   trach/peg.  Echo basically normal, likely not a big component of volume
   overload. CXR demonstrating some interval worsening; this coincides
   with new tan colored sputum.
   - pursuing trach/peg, discussed with family who is in agreement, IP
   will call regarding timing: tues v wed.
   - no antibiotics or steroids currently, but will obtain second opinion
   from another chest radiologist on whether appearance on CT could be
   atypical presentation for COP.
   - REPEAT SPUTUM
   - goal net even
   - sputium growing only yeast
 Nystatin S+S, rpt sputum
   .
   #) Mucocutaneous lesions:  DFA negative for HSV, culture pending.
   Lower suspicion for Zoster given b/l lesions.
   - derm has been emailed images, need to f/u on their impression
   - continue acyclovir 400mg tid for total of 10d course
   .
   #) Diffuse drug rash: initially thought to be fungal given dependent
   distribution and confluence in axilla/groin, but currently seems to be
   more c/w drug rash. Multiple possible offenders: initial Abx which he
   has been off of for 4 days, famotidine which wwas discontinued,
   possibly acyclovir
?  No blood eosinpjilia; previously with U eos. U
   eos could also be [**1-28**] yeast UTI.
   - monitor skin for areas of necrosis, otherwise expectant mgt
   - repeat U eos.
   #) Hyponatremia: Start off by restricting flushes and other sources of
   free water. Send ULTYES,OSMS, serum osms; continue to trend.
   .
   #) Hypoalbuminemia:  Albumin is stable at 1.9 today, decreased from 3.1
   10 days ago.  This is likely secondary to systemic inflammatory process
   and malnutrition.  He also has significant albuminuria, but not
   nephrotic range.
   - continue nutrition with tube feeds
   .
   #) Proteinuria:  Normal creatinine and no evidence of
   glomerulonephritis that would make us think of a pulmonary-renal
   syndrome.  There is no history of diabetes.  Significant protein in
   urine on repeat despite changing Foley.  Cultures growing only yeast.
   - recheck
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2143-5-26**] 10:34 PM 69.[**Telephone/Fax (5) 6763**]
   mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-5-25**] 12:49 PM
   PICC Line - [**2143-5-25**] 07:03 PM
   Arterial Line - [**2143-5-27**] 12:00 AM
   Prophylaxis:
   DVT:  sqh
   Stress ulcer: sucralfate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: icu

2143-05-28 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2143-5-27**] 04:26 PM
   - i/o balance +630ml, but sbp did not allow lasix to be given, sbp
   remained 100s
   - urine lytes showed FeNa <1% (0.4%), Uosm 546, Sosm 280, Pr/Cr ratio
   2.5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2143-5-27**] 04:00 PM
   Fentanyl - [**2143-5-27**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2143-5-28**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-28**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 70 (61 - 80) bpm
   BP: 93/43(59) {91/40(55) - 134/60(85)} mmHg
   RR: 20 (19 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,776 mL
                                                                    154 mL
   PO:
             TF:
                                                                  1,398 mL
                                                                     18 mL
   IVF:
                                                                    138 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    580 mL
   Urine:
                                                                  1,000 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    776 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.41/48/74/27/4
   Ve: 8.3 L/min
   PaO2 / FiO2: 185
   Physical Examination
   GEN: Pt is intubated and sedated. Unresponsive.
   SKIN: Has anasarca. Warm, there is a macular diffuse rash on the abd
   and extremites, most prominent on thighs, erythematous
   HEENTl: intubated, dry MM
   CHEST: Ronchi present bilaterally
   CV: RRR, no Murmur
   ABD: soft, ND
   EXT: diffuse edema, arms>legs
   Labs / Radiology
   320 K/uL
   9.2 g/dL
   91 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.9 mEq/L
   29 mg/dL
   99 mEq/L
   131 mEq/L
   26.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2143-5-25**]  11:07 AM
                             [**2143-5-25**]  01:03 PM
                             [**2143-5-26**]  04:44 AM
                             [**2143-5-26**]  05:08 AM
                             [**2143-5-26**]  11:33 PM
                             [**2143-5-27**]  04:48 AM
                             [**2143-5-27**]  04:52 AM
                             [**2143-5-27**]  06:29 PM
                             [**2143-5-28**]  04:25 AM
                             [**2143-5-28**]  04:35 AM
   WBC
   8.0
   8.5
   8.2
   Hct
   28.8
   27.9
   26.1
   Plt
   326
   327
   320
   Cr
   0.6
   0.7
   0.6
   TCO2
   22
   28
   31
   30
   30
   31
   31
   Glucose
   138
   133
   91
   Other labs: PT / PTT / INR:13.4/41.8/1.1, ALT / AST:51/52, Alk Phos / T
   Bili:96/0.3, Differential-Neuts:79.0 %, Lymph:14.2 %, Mono:5.1 %,
   Eos:1.5 %, Fibrinogen:631 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, LDH:201 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Urine lytes: na  47, Pro/Cr 2.5, Cr 63, Osmolal 546
   UA: RBC 125, WBC 38, Bact few, Pro 30, Nit neg
   Urine Cx [**5-27**]: pending
   Sputum Cx [**5-27**]: test cancelled, poor specimen
   Sputum [**2143-5-26**]: sparse yeast
   Urine [**2143-5-24**]: >100,000 yeast
   Assesment and Plan:
 .H/O FUNGAL INFECTION, OTHER
 PNEUMONIA, OTHER
   unclear cause
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   Underlying emphysema
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   oral mucocutaneous ulceration, urine eosinophilia
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
 DELIRIUM / CONFUSION
   Mr. [**Known lastname 6672**] is a 77-year-old man with no significant medical history who
   is transferred from an outside hospital for respiratory failure
   secondary to PNA overlying COPD.
   #) Respiratory failure: BAL and bronch without clear cuase of
   multilobular inflammation, no evidence of infection, off abx since
   [**5-24**].  Unclear if COP, holding on tx with steroids. [**Month (only) 8**] be slowly
   clearing PNA  in setting of underlying emphysema.   Failed PSV on [**5-25**],
   therefore, preparing for trach.  Echo WNL. CXR demonstrating some
   improvement with increased recruitment.
   - trach to be placed today [**5-28**]
   - hold on further antibiotics or steroids currently
   - goal net even
   - sputium growing only yeast
 Nystatin S+S, rpt sputum
   - increase PEEP to 10 from 8
   - follow daily cxr
   .
   #) Mucocutaneous lesions:  DFA negative for HSV, culture pending.
   Unlikely Zoster given b/l lesions. On day 7 of acylovir
   - consider d/c of acylovir due to rash, completed 7 day tx
   .
   #) Diffuse drug rash: initially thought to be fungal given, but now
   appears allergic. Multiple possible drug offenders: initial Abx which
   he has been off since [**5-23**], famotidine which wwas discontinued,
   possibly acyclovir or fentayl, no eosinophilia on diff; previously with
   urine eos.
   - monitor skin for areas of necrosis,
   - if awakes, may need bendryl
   - will d/c acylovir and fentanyl
   #) Hyponatremia: Apears to be SIADH, likely from lung process.
   - will monitor NA [**Hospital1 **], restict fluids if needed
   .
   #) Hypoalbuminemia:  Albumin [**5-26**] was 1.9 today, decreased from 3.1
   earlier in month.  This is likely secondary to systemic inflammatory
   process and malnutrition.  He also has significant albuminuria, but not
   nephrotic range.
   - continue nutrition with tube feeds
   .
   #) Proteinuria:  Normal creatinine and no evidence of
   glomerulonephritis that would make us think of a pulmonary-renal
   syndrome.  There is no history of diabetes.  Significant protein in
   urine on repeat despite changing Foley.  Cultures growing only yeast.
   - monitor renal function
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2143-5-26**] 10:34 PM 69.[**Telephone/Fax (5) 6763**]
   mL/hour
   Glycemic Control:   not requiring insulin
   Lines:
   22 Gauge - [**2143-5-25**] 12:49 PM
   PICC Line - [**2143-5-25**] 07:03 PM
   Arterial Line - [**2143-5-27**] 12:00 AM
   Prophylaxis:
   DVT:  sq heparin TID
   Stress ulcer: sucralfate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: icu, will discuss with case manegment about long term
   placement for once resp status improves

2143-05-29 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2143-5-28**] 12:10 PM
   Trach placed
   Sodium 128 - monitor
   PEEP 10
   D/C Acyclovir and Fentanyl due to drug rash
   Family meeting tomorrow at 2 pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2143-5-28**] 12:00 PM
   Midazolam (Versed) - [**2143-5-28**] 12:04 PM
   Heparin Sodium (Prophylaxis) - [**2143-5-29**] 12:00 AM
   Morphine Sulfate - [**2143-5-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-29**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.4
C (97.5
   HR: 72 (66 - 90) bpm
   BP: 117/50(72) {92/43(58) - 157/81(101)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    538 mL
                                                                    192 mL
   PO:
             TF:
                                                                    145 mL
                                                                    128 mL
   IVF:
                                                                     93 mL
                                                                      9 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    245 mL
   Urine:
                                                                  1,620 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,082 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.49/37/87.[**Numeric Identifier 7**]/26/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 220
   Physical Examination
   GEN: Pt is intubated and sedated. Unresponsive.
   SKIN: Has anasarca. Warm, there is a macular diffuse rash on the abd
   and extremites, most prominent on thighs, erythematous
   HEENTl: intubated, dry MM
   CHEST: Ronchi present bilaterally
   CV: RRR, no Murmur
   ABD: soft, ND
   EXT: diffuse edema, arms>legs
   Labs / Radiology
   279 K/uL
   8.4 g/dL
   107 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   21 mg/dL
   99 mEq/L
   131 mEq/L
   24.0 %
   6.1 K/uL
        [image002.jpg]
                             [**2143-5-26**]  05:08 AM
                             [**2143-5-26**]  11:33 PM
                             [**2143-5-27**]  04:48 AM
                             [**2143-5-27**]  04:52 AM
                             [**2143-5-27**]  06:29 PM
                             [**2143-5-28**]  04:25 AM
                             [**2143-5-28**]  04:35 AM
                             [**2143-5-28**]  04:21 PM
                             [**2143-5-29**]  04:46 AM
                             [**2143-5-29**]  05:09 AM
   WBC
   8.5
   8.2
   6.1
   Hct
   27.9
   26.1
   24.0
   Plt
   327
   320
   279
   Cr
   0.7
   0.6
   0.6
   TCO2
   31
   30
   30
   31
   31
   30
   29
   Glucose
   133
   91
   107
   Other labs: PT / PTT / INR:13.4/41.8/1.1, ALT / AST:51/52, Alk Phos / T
   Bili:96/0.3, Differential-Neuts:79.0 %, Lymph:14.2 %, Mono:5.1 %,
   Eos:1.5 %, Fibrinogen:631 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:1.9
   g/dL, LDH:201 IU/L, Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Urine Cx [**5-27**]: negative
   Sputum Cx [**5-27**]: test cancelled, poor specimen
   Sputum [**2143-5-26**]: sparse yeast
   Urine [**2143-5-24**]: >100,000 yeast
   Assesment and Plan:
 .H/O FUNGAL INFECTION, OTHER
 PNEUMONIA, OTHER
   unclear cause
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   Underlying emphysema
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   oral mucocutaneous ulceration, urine eosinophilia
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
 DELIRIUM / CONFUSION
   Mr. [**Known lastname 6672**] is a 77-year-old man with no significant medical history who
   is transferred from an outside hospital for respiratory failure
   secondary to PNA overlying COPD.
   #) Respiratory failure: BAL and bronch without clear cuase of
   multilobular inflammation, no evidence of infection, off abx since
   [**5-24**].  Unclear if COP, holding on tx with steroids. [**Month (only) 8**] be slowly
   clearing PNA  in setting of underlying emphysema.   Failed PSV on [**5-25**],
   therefore, preparing for trach.  Echo WNL. CXR demonstrating some
   improvement with increased recruitment.
   - trach to be placed today [**5-28**]
   - hold on further antibiotics or steroids currently
   - goal net even
   - sputium growing only yeast
 Nystatin S+S, rpt sputum
   - increase PEEP to 10 from 8
   - follow daily cxr
   .
   #) Mucocutaneous lesions:  DFA negative for HSV, culture pending.
   Unlikely Zoster given b/l lesions. On day 7 of acylovir
   - consider d/c of acylovir due to rash, completed 7 day tx
   .
   #) Diffuse drug rash: initially thought to be fungal given, but now
   appears allergic. Multiple possible drug offenders: initial Abx which
   he has been off since [**5-23**], famotidine which wwas discontinued,
   possibly acyclovir or fentayl, no eosinophilia on diff; previously with
   urine eos.
   - monitor skin for areas of necrosis,
   - if awakes, may need bendryl
   - will d/c acylovir and fentanyl
   #) Hyponatremia: Apears to be SIADH, likely from lung process.
   - will monitor NA [**Hospital1 **], restict fluids if needed
   .
   #) Hypoalbuminemia:  Albumin [**5-26**] was 1.9 today, decreased from 3.1
   earlier in month.  This is likely secondary to systemic inflammatory
   process and malnutrition.  He also has significant albuminuria, but not
   nephrotic range.
   - continue nutrition with tube feeds
   .
   #) Proteinuria:  Normal creatinine and no evidence of
   glomerulonephritis that would make us think of a pulmonary-renal
   syndrome.  There is no history of diabetes.  Significant protein in
   urine on repeat despite changing Foley.  Cultures growing only yeast.
   - monitor renal function
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2143-5-26**] 10:34 PM 69.[**Telephone/Fax (5) 6763**]
   mL/hour
   Glycemic Control:   not requiring insulin
   Lines:
   22 Gauge - [**2143-5-25**] 12:49 PM
   PICC Line - [**2143-5-25**] 07:03 PM
   Arterial Line - [**2143-5-27**] 12:00 AM
   Prophylaxis:
   DVT:  sq heparin TID
   Stress ulcer: sucralfate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: icu, will discuss with case manegment about long term
   placement for once resp status improves

2143-05-30 07:27:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - agitation, started zyprexa, gave propofol while getting CT, more
   agitation, so restarted propofol drip (pts SBP in 170s), switched back
   to Pressure Control
   - ABG 7.64/29/82 --> respiratory alkalosis --> decr RR from 15 to 12,
   decr pressure support
   - got CT Chest/Abd/Pelv w 130cc IV contrast to eval for lung fxn and
   cause of abd distention (KUB non-diagnostic due to motion abnormality)
   ----- prelim: LUL PNA, b/l effusions, ? subsugmental PEs - but could be
   artifact given that this is not an optimal study for PE, recommend CTA;
   abd - full of stool
   - d/w Dr [**Last Name (STitle) 749**] (o/n attdg) re: heparin gtt for PE, holding off,
   consider LE U/S tomorrow for DVT
   - new a-line placed (left radial)
   - family meeting- they are on board with PEG and long term placement
   when pt is able
   - NPO after MN w lo intermed wall sxn for possible PEG placement by IP
   on [**5-30**]
   - 1 pRBC (21.8
 23.1)
   - Continues to have mild hematuria
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-5-29**] 08:00 AM
   Midazolam (Versed) - [**2143-5-29**] 08:30 AM
   Morphine Sulfate - [**2143-5-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-30**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 72 (68 - 103) bpm
   BP: 112/47(67) {97/42(59) - 176/83(118)} mmHg
   RR: 21 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    919 mL
                                                                    505 mL
   PO:
           TF:
                                                                    594 mL
   IVF:
                                                                     80 mL
                                                                     70 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,715 mL
                                                                    575 mL
   Urine:
                                                                  1,715 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -796 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 363 (308 - 406) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 104
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.51/38/103/27/6
   Ve: 7.3 L/min
   PaO2 / FiO2: 206
   Physical Examination
   GEN: Pt is intubated and sedated. Withdraws extremities to pain, does
   not follow commands.
   SKIN: Has anasarca. Warm, improvement of rash
   HEENT: intubated, dry MM
   CHEST: Ronchi present bilaterally
   CV: RRR, no Murmurs
   ABD: soft, ND
   EXT: less edema, arms>legs
   Labs / Radiology
   275 K/uL
   8.3 g/dL
   99 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   12 mg/dL
   99 mEq/L
   133 mEq/L
   23.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2143-5-28**]  04:21 PM
                             [**2143-5-29**]  04:46 AM
                             [**2143-5-29**]  05:09 AM
                             [**2143-5-29**]  09:46 AM
                             [**2143-5-29**]  10:51 PM
                             [**2143-5-30**]  12:09 AM
                             [**2143-5-30**]  12:44 AM
                             [**2143-5-30**]  02:15 AM
                             [**2143-5-30**]  03:15 AM
                             [**2143-5-30**]  03:32 AM
   WBC
   6.1
   5.9
   5.9
   Hct
   24.0
   21.8
   23.1
   Plt
   279
   277
   275
   Cr
   0.6
   0.5
   TCO2
   30
   29
   30
   29
   32
   31
   31
   Glucose
   107
   99
   Other labs: PT / PTT / INR:14.8/27.6/1.3, ALT / AST:28/38, Alk Phos / T
   Bili:86/0.4, Differential-Neuts:79.0 %, Lymph:14.2 %, Mono:5.1 %,
   Eos:1.5 %, Fibrinogen:547 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.1
   g/dL, LDH:201 IU/L, Ca++:7.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   77M w [**Hospital 6812**] transferred from OSH for respiratory failure from PNA.
   # Respiratory failure: Unclear etiology. DDx included Cryptogenic
   Organizing PNA (COP) vs infection vs PE, in the setting of baseline
   COPD. Off abx since [**5-24**].  Failed PSV on [**5-25**], s/p trach on [**2143-5-28**].
   - possible small subsegmental PE, but unclear on CT scan, was not a CTA
   protocol scan
   ----- hold off on anticoagulation
   ----- f/u final CT Chest read
   ----- LE Doppler U/S for DVT evaluation
   - possible infection - LUL PNA w effusions, no fevers
   ----- hold off on antibiotics
   ----- sputum growing only yeast
 Nystatin S+S, rpt sputum
   ----- blood cx pending, so far negative
   ----- thoracentesis for cx today
   - possible COP, and underlying COPD
   ----- hold off on steroids
   - continue mechanical ventilation, now with less PEEP
   - follow daily cxr
   - monitor cxs
   - goal net negative
   # Mucocutaneous lesions:  DFA negative for HSV, culture pending.
   Unlikely Zoster given b/l lesions. Completed acyclovir 7 day course
   -can remove zoster precautions
   .
   # Diffuse drug rash: initially thought to be fungal, but then appeared
   to be allergic. Multiple possible drug offenders: initial Abx which he
   has been off since [**5-23**], famotidine which was discontinued, possibly
   acyclovir or fentayl, no eosinophilia on diff; previously with urine
   eos. Resolved.
   - monitor
   # Hyponatremia: Apears to be SIADH, likely from lung process.
   - will monitor Na
   .
   # Hypoalbuminemia:  Albumin [**5-26**] was 2.1, decreased from 3.1 earlier in
   month.  This is likely secondary to systemic inflammatory process and
   malnutrition.  He also has significant albuminuria, but not nephrotic
   range.
   - continue nutrition with tube feeds, plan for PEG possible today based
   on CT scan
   - repeat albumin and LFTs
   .
   # Proteinuria:  Normal creatinine and no evidence of glomerulonephritis
   that would make us think of a pulmonary-renal syndrome.  There is no
   history of diabetes.  Significant protein in urine on repeat despite
   changing Foley.  Cultures growing only yeast.
   - monitor renal function
   - repeat urine pro/Cr
   # Hematuria: Unclear etiology, may be from foley trauma
   - recheck UA
   # Anemia: Normocytic, baseline Hct ~31. Unclear etiology, but likely
   2/2 blood loss from hematuria and procedures (trach?) in the setting of
   anemia of chronic disease. Low 20s now.
   - monitor Hct [**Hospital1 **]
   - transfuse for Hct < 21
   # Goals of Care: remains full code w plan for PEG and LTAC (long-term
   acute care) facility placement
   ICU Care
   Nutrition: tube feeds, but NPO for PEG tube placement
   Glycemic Control:  no insulin currently
   Lines:
   PICC Line - [**2143-5-25**] 07:03 PM
   22 Gauge - [**2143-5-29**] 06:00 PM
   Arterial Line - [**2143-5-30**] 01:55 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: sucralfate
   VAP:
   Comments:
   Communication:  Comments: family (wife/son)
   [**Name (NI) 156**] status: Full code
   Disposition: monitoring, possible PEG and thoracentesis today

2143-05-31 07:35:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   -PEG tube placed
   -IP did not do thoracentesis
   -vent changed to CPAP 10/5
   -autodiuresis
   -weaning propofol
   -zyprexa increased
   -hct improved at 26
   -final read on Chest CT without clear PE, but effusions moderately
   enlarged since prior CT
   -Doppler LEs showed no DVT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-31**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 85 (67 - 88) bpm
   BP: 127/59(83) {104/45(63) - 138/68(92)} mmHg
   RR: 32 (13 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,040 mL
                                                                    238 mL
   PO:
             TF:
   IVF:
                                                                    315 mL
                                                                     58 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,405 mL
                                                                    405 mL
   Urine:
                                                                  2,405 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,365 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 325 (325 - 398) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.50/33/85.[**Numeric Identifier 299**]/25/2
   Ve: 13.9 L/min
   PaO2 / FiO2: 213
   Physical Examination
   GEN: Pt is intubated and sedated. Withdraws extremities to pain, does
   not follow commands.
   SKIN: Has anasarca. Warm, improvement of rash
   HEENT: intubated, dry MM
   CHEST: Ronchi present bilaterally
   CV: RRR, no Murmurs
   ABD: soft, ND
   EXT: less edema, arms>legs
   Labs / Radiology
   261 K/uL
   9.2 g/dL
   92 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.1 mEq/L
   10 mg/dL
   102 mEq/L
   134 mEq/L
   25.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2143-5-30**]  02:15 AM
                             [**2143-5-30**]  03:15 AM
                             [**2143-5-30**]  03:32 AM
                             [**2143-5-30**]  10:53 AM
                             [**2143-5-30**]  04:21 PM
                             [**2143-5-30**]  06:01 PM
                             [**2143-5-30**]  07:47 PM
                             [**2143-5-31**]  01:22 AM
                             [**2143-5-31**]  04:27 AM
                             [**2143-5-31**]  04:43 AM
   WBC
   5.9
   6.9
   Hct
   23.1
   26.0
   25.7
   Plt
   275
   261
   Cr
   0.5
   0.6
   TCO2
   31
   31
   31
   29
   28
   27
   27
   Glucose
   99
   92
   Other labs: PT / PTT / INR:13.3/27.6/1.1, ALT / AST:28/38, Alk Phos / T
   Bili:86/0.4, Differential-Neuts:79.0 %, Lymph:14.2 %, Mono:5.1 %,
   Eos:1.5 %, Fibrinogen:547 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.1
   g/dL, LDH:201 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   77M w [**Hospital 6812**] transferred from OSH for respiratory failure from likely
   PNA.
   # Respiratory failure: Unclear etiology. DDx includes infection vs
   Cryptogenic Organizing PNA (COP) vs PE, in the setting of baseline
   COPD. Off abx since [**5-24**].  S/p trach on [**2143-5-28**]. Worsened by anxiety.
   - possible infection
 CT [**5-30**]: multifocal PNA w effusions L>R
   ----- no antibiotics currently as no clinical signs of active infection
   ----- if temp > 100.4 or hemodynamically unstable start abx for HAP
   ----- sputum [**5-27**]
 yeast, sparse GNRs
   ----- blood cx pending, so far negative
   ----- consider thoracentesis for cx, but not large enough per IP to tap
   - possible small subsegmental PE, but unclear on CT scan, was not a CTA
   protocol scan, LE U/S negative for DVT
   ----- hold off on anticoagulation
   ----- hold off on CTA Chest for PE eval as low suspicion
   - possible COP, and underlying COPD
   ----- hold off on steroids
   - anxiety
   ----- increase olanzapine
   ----- start lorazepam 1mg PO TID
   - ventilation support now w CPAP
   - wean sedation as tolerated
   - tracheostomy collar trial today
   - follow daily cxr
   - goal net negative to help oxygenation
   .
   # Hypoalbuminemia: [**1-28**] malnutrition/proteinuria in the setting of
   systemic inflammatory process.
   - continue nutrition with tube feeds w transition to PEG
   - monitor albumin
   .
   # Proteinuria:  Normal creatinine and no evidence of glomerulonephritis
   that would make us think of a pulmonary-renal syndrome.  There is no
   history of diabetes.  Significant protein in urine on repeat despite
   changing Foley.  Cultures growing only yeast.
   - monitor renal function
   - repeat urine pro/Cr
   # Hematuria: Unclear etiology, may be from foley trauma, but persistent
   - monitor for now
   - d/c Foley and recheck UA once off ventilatory support
   # Anemia: Normocytic, baseline Hct ~31. Unclear etiology, but likely
   2/2 blood loss from hematuria and procedures (trach/PEG) in the setting
   of anemia of chronic disease.
   - monitor Hct daily
   - transfuse for Hct < 21
   # Hyponatremia: Apears to be SIADH, likely from lung process. Improving
   w respiratory status.
   - will monitor Na
   # Rash:
   - Bullous abdominal lesions: likely allergic rxn to chlorhexidine prep
   at the time of the PEG ([**5-30**])
 monitor for now
   - Mucocutaneous lesions:  DFA negative for HSV, culture pending.
   Unlikely Zoster given b/l lesions. Completed acyclovir x 7d.
   - Diffuse torso/LE rash: likely [**1-28**] drug rxn
 abx (CTX, vanc,
   levofloxacin
 stopped on [**5-23**]) vs famotidine (stopped on [**5-26**]) vs
   acyclovir (stopped on [**5-28**]) vs fentanyl (stopped on [**5-28**]), no
   eosinophilia on diff; previously with urine eos. Resolved.
   # Goals of Care: remains full code w plan for PEG and LTAC (long-term
   acute care) facility placement
   ICU Care
   Nutrition: TFs to be transitioned to PEG
   Glycemic Control:
   Lines:
   PICC Line - [**2143-5-25**] 07:03 PM
   22 Gauge - [**2143-5-29**] 06:00 PM
   Arterial Line - [**2143-5-30**] 01:55 AM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: sucralfate
   VAP:
   Comments:
   Communication:  Comments: family (wife/son)
   [**Name (NI) 156**] status: Full code
   Disposition:

2143-06-01 07:29:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - trach collar trial, pt tolerated it well, but placed back on vent -
   plan for daily vent trials
   - started lorazepam, increased haloperidol to treat anxiety
   - weaning sedation
   - PEG ok to use
   - new bullous lesions on abd around PEG site - ? [**1-28**] allergic rxn to
   chloroprep
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-6-1**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-6-1**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 83 (81 - 99) bpm
   BP: 116/52(73) {108/51(71) - 175/82(118)} mmHg
   RR: 25 (20 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    892 mL
                                                                    363 mL
   PO:
                  TF:
                                                                    311 mL
                                                                    253 mL
   IVF:
                                                                     90 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                    230 mL
   Urine:
                                                                  2,515 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,623 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (285 - 727) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.53/33/82.[**Numeric Identifier 253**]/25/4
   Ve: 13.6 L/min
   PaO2 / FiO2: 207
   Physical Examination
   GEN: Intubated. Withdraws extremities to pain, does not follow
   commands.
   SKIN: Edematous. Warm, improvement of rash. Bullae around PEG tube.
   HEENT: intubated, dry MM
   CHEST: Ronchi present bilaterally
   CV: RRR, no Murmurs
   ABD: soft, ND, PEG tube dressing c/d/i
   EXT: less edema, arms>legs
   Labs / Radiology
   254 K/uL
   9.0 g/dL
   149 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.2 mEq/L
   11 mg/dL
   104 mEq/L
   136 mEq/L
   25.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2143-5-30**]  04:21 PM
                             [**2143-5-30**]  06:01 PM
                             [**2143-5-30**]  07:47 PM
                             [**2143-5-31**]  01:22 AM
                             [**2143-5-31**]  04:27 AM
                             [**2143-5-31**]  04:43 AM
                             [**2143-5-31**]  12:46 PM
                             [**2143-5-31**]  03:32 PM
                             [**2143-6-1**]  03:56 AM
                             [**2143-6-1**]  04:16 AM
   WBC
   6.9
   6.5
   Hct
   26.0
   25.7
   25.8
   Plt
   261
   254
   Cr
   0.6
   0.6
   TCO2
   29
   28
   27
   27
   27
   28
   28
   Glucose
   92
   149
   Other labs:
   PT / PTT / INR:13.2/27.6/1.1,
   ALT / AST:28/38, Alk Phos / T Bili:86/0.4,
   Differential-Neuts:79.0 %, Lymph:14.2 %, Mono:5.1 %, Eos:1.5 %,
   Fibrinogen:547 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:201
   IU/L,
   Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   77M w [**Hospital 6812**] transferred from OSH for respiratory failure from likely
   PNA.
   # Respiratory failure: Unclear etiology, likely pneumonia in the
   setting of COPD, worsened by anxiety. DDx also includes Cryptogenic
   Organizing PNA (COP) vs PE (but low suspicion). Off abx since [**5-24**].
   S/p trach on [**2143-5-28**]. Worsened by anxiety.
   - possible infection
 CT [**5-30**]: multifocal PNA w effusions L>R
   ----- no antibiotics currently as no clinical signs of active infection
   ----- if temp > 100.4 or hemodynamically unstable start abx for HAP
   ----- sputum [**5-27**]
 yeast, sparse GNRs (non-Pseudomonas)
   ----- blood cx pending, so far negative
   ----- consider thoracentesis for cx, but not large enough per IP to tap
   - anxiety
   ----- continue olanzapine 10mg PO TID
   ----- decrease lorazepam 1mg PO BID
   - possible small subsegmental PE, but unclear on CT scan, was not a CTA
   protocol scan, LE U/S negative for DVT, low suspicion at this point.
   Holding off on anticoagulation or CTA Chest.
   - possible COP, and underlying COPD, holding off on steroids
   - ventilation support now w CPAP
   - tracheostomy collar trial today
   - follow daily cxr
   - goal net negative to help oxygenation
   # ? UTI: UA [**5-31**] shows +nitr, trace LE, 74 WBC, few bacteria, no fevers,
   but some low grade-temps. U Cx w yeast in the past.
   - add on urine cx
   - change foley and recheck  UA/UCx
   # Hematuria: Unclear etiology, may be from foley trauma, improved.
   - monitor for now
   - d/c Foley and recheck UA once off ventilatory support, could consider
   urology c/s if persists
   # Proteinuria:  Normal creatinine and no evidence of glomerulonephritis
   that would make us think of a pulmonary-renal syndrome.  There is no
   history of diabetes.  Significant protein in urine on repeat despite
   changing Foley.  Cultures growing only yeast. Improving protein/Cr
   ratio
 now 2.2 from 2.5.
   - monitor renal function
   # Anemia: Normocytic, baseline Hct ~31. Unclear etiology, but likely
   2/2 blood loss from hematuria and procedures (trach/PEG) in the setting
   of anemia of chronic disease.
   - monitor Hct daily
   - transfuse for Hct < 21
   # Hypoalbuminemia: [**1-28**] malnutrition/proteinuria in the setting of
   systemic inflammatory process.
   - continue nutrition with tube feeds w transition to PEG
   - monitor albumin
   # Hyponatremia: Apears to be SIADH, likely from lung process.
   Resolving.
   - will monitor Na
   # Rash:
   - Bullous abdominal lesions: likely allergic rxn to chlorhexidine prep
   at the time of the PEG ([**5-30**])
 monitor for now
   - Mucocutaneous lesions:  DFA negative for HSV, culture pending.
   Unlikely Zoster given b/l lesions. Completed acyclovir x 7d.
   - Diffuse torso/LE rash: likely [**1-28**] drug rxn
 abx (CTX, vanc,
   levofloxacin
 stopped on [**5-23**]) vs famotidine (stopped on [**5-26**]) vs
   acyclovir (stopped on [**5-28**]) vs fentanyl (stopped on [**5-28**]), no
   eosinophilia on diff; previously with urine eos. Resolved.
   # Goals of Care: full code w plan for LTAC (long-term acute care)
   facility placement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-5-31**] 12:45 PM 35 mL/hour through PEG
   Glycemic Control:
   Lines:
   PICC Line - [**2143-5-25**] 07:03 PM
   22 Gauge - [**2143-5-29**] 06:00 PM
   Arterial Line - [**2143-5-30**] 01:55 AM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer:  sucralfate
   VAP:
   Comments:
   Communication:  Comments: wife/son
   [**Name (NI) 156**] status: Full code
   Disposition:

2143-06-02 07:10:00 Physician Resident Progress Note
24 Hour Events:
   - trach collar trial, tolerated well for 3-4 hrs, switched back to PSV
   [**11-30**], then to AC overnight
   - more sedated than usual on lorazepam/haloperidol, decreased lorazepam
   to 1mg [**Hospital1 **]
   - UA suspicious for UTI, tried condom cath unsuccessfully, changed
   Foley, improved repeat UA
   - low-grade fevers, pan-cx, but no abx yet
   - lasix 20mg IV x 1 at 6pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-6-2**] 05:30 AM
   Vancomycin - [**2143-6-2**] 06:49 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2143-6-1**] 05:00 PM
   Furosemide (Lasix) - [**2143-6-1**] 05:59 PM
   Heparin Sodium (Prophylaxis) - [**2143-6-2**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-6-2**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 84 (73 - 96) bpm
   BP: 103/51(69) {103/51(69) - 163/77(109)} mmHg
   RR: 34 (24 - 41) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,300 mL
                                                                    545 mL
   PO:
             TF:
                                                                    840 mL
                                                                    245 mL
   IVF:
                                                                    150 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    540 mL
   Urine:
                                                                  2,020 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -720 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 316 (274 - 391) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.54/33/105/25/5
   Ve: 10.3 L/min
   PaO2 / FiO2: 263
   Physical Examination
   GEN: s/p Tracheostomy. Withdraws extremities to pain, does not follow
   commands.
   SKIN: Edematous. Warm, improvement of rash. Bullae around PEG tube.
   HEENT: dry MM, w labial lesions
   CHEST: Ronchi present bilaterally
   CV: RRR, no Murmurs
   ABD: soft, ND, PEG tube dressing c/d/i
   EXT: less edema, arms>legs
   Labs / Radiology
   245 K/uL
   9.2 g/dL
   144 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.4 mEq/L
   14 mg/dL
   107 mEq/L
   140 mEq/L
   25.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2143-5-31**]  01:22 AM
                             [**2143-5-31**]  04:27 AM
                             [**2143-5-31**]  04:43 AM
                             [**2143-5-31**]  12:46 PM
                             [**2143-5-31**]  03:32 PM
                             [**2143-6-1**]  03:56 AM
                             [**2143-6-1**]  04:16 AM
                             [**2143-6-1**]  06:17 PM
                             [**2143-6-1**]  10:08 PM
                             [**2143-6-2**]  03:19 AM
   WBC
   6.9
   6.5
   8.3
   Hct
   25.7
   25.8
   25.9
   Plt
   261
   254
   245
   Cr
   0.6
   0.6
   0.6
   TCO2
   27
   27
   27
   28
   28
   29
   29
   Glucose
   92
   149
   144
   Other labs:
    PT / PTT / INR:13.2/27.6/1.1,
   ALT / AST:28/38, Alk Phos / T Bili:86/0.4,
   Differential-Neuts:79.0 %, Lymph:14.2 %, Mono:5.1 %, Eos:1.5 %,
    Fibrinogen:547 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:201 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   77M w [**Hospital 6812**] transferred from OSH for respiratory failure from likely
   PNA, now w intermittent low fevers.
   # Fever: likely from infxn
 PNA (HAP) vs UTI vs line infxn vs other.
   - consider abx - zosyn
   - f/u cxs
   # Respiratory failure: Unclear etiology, likely pneumonia in the
   setting of COPD, worsened by anxiety. DDx also includes Cryptogenic
   Organizing PNA (COP) vs PE (but low suspicion). Off abx since [**5-24**].
   S/p trach on [**2143-5-28**]. Worsened by anxiety.
   - possible infection
 CT [**5-30**]: multifocal PNA w effusions L>R
   ----- sputum [**5-27**]
 yeast, sparse GNRs (non-Pseudomonas)
   ----- blood cx pending, so far negative
   ----- consider thoracentesis for cx, but not large enough per IP to tap
   - anxiety
   ----- continue olanzapine 10mg PO TID
   ----- continue lorazepam 1mg PO BID
   - possible small subsegmental PE, but unclear on CT scan, was not a CTA
   protocol scan, LE U/S negative for DVT, low suspicion at this point.
   Holding off on anticoagulation or CTA Chest.
   - possible COP, and underlying COPD, holding off on steroids
   - ventilation support now w CPAP, wean as tolerated
   - follow daily cxr
   - goal net negative to help oxygenation
   # ? UTI: UA [**5-31**] shows +nitr, trace LE, 74 WBC, few bacteria, no fevers,
   but some low grade-temps. U Cx w yeast in the past.
   - add on urine cx
   - change foley and recheck  UA/UCx
   # Hematuria: Unclear etiology, may be from foley trauma, improved.
   - monitor for now
   # Proteinuria:  Normal creatinine and no evidence of glomerulonephritis
   that would make us think of a pulmonary-renal syndrome.  There is no
   history of diabetes.  Significant protein in urine on repeat despite
   changing Foley.  Cultures growing only yeast. Improving protein/Cr
   ratio
 now 2.2 from 2.5.
   - monitor renal function
   # Anemia: Normocytic, baseline Hct ~31. Unclear etiology, but likely
   2/2 blood loss from hematuria and procedures (trach/PEG) in the setting
   of anemia of chronic disease.  Stable ~26.
   - monitor Hct daily
   - transfuse for Hct < 21
   # Hypoalbuminemia: [**1-28**] malnutrition/proteinuria in the setting of
   systemic inflammatory process.
   - continue nutrition with tube feeds w transition to PEG
   - monitor albumin
   # Hyponatremia: Appears to be SIADH, likely from lung process.
   Resolved.
   # Rash:
   - Bullous abdominal lesions: likely allergic rxn to chlorhexidine prep
   at the time of the PEG ([**5-30**])
 monitor for now
   - Mucocutaneous lesions:  DFA negative for HSV, culture pending.
   Unlikely Zoster given b/l lesions. Completed acyclovir x 7d.
   - Diffuse torso/LE rash: likely [**1-28**] drug rxn
 abx (CTX, vanc,
   levofloxacin
 stopped on [**5-23**]) vs famotidine (stopped on [**5-26**]) vs
   acyclovir (stopped on [**5-28**]) vs fentanyl (stopped on [**5-28**]), no
   eosinophilia on diff; previously with urine eos. Resolved.
   # Goals of Care: full code w plan for LTAC (long-term acute care)
   facility placement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-6-2**] 04:08 AM 35.[**Telephone/Fax (5) 6905**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-5-25**] 07:03 PM
   22 Gauge - [**2143-5-29**] 06:00 PM
   Arterial Line - [**2143-5-30**] 01:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   :

2143-06-03 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -stopped zyprexa, started celexa instead low dose for anxiety
   -lorzepam 1mg Q8H and PRN
   -urine [**6-1**] with yeast 10-100,000
   -sputum [**6-2**] with secretions from upper airways
   -sputum [**5-27**]- NON-FERMENTER, NOT PSEUDOMONAS AERUGINOSA and YEAST
   senstive to current abx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2143-6-2**] 06:05 PM
   Vancomycin - [**2143-6-2**] 08:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2143-6-3**] 05:28 AM
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2143-6-2**] 08:00 AM
   Morphine Sulfate - [**2143-6-2**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2143-6-3**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-6-3**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 81 (73 - 103) bpm
   BP: 109/52(72) {98/48(66) - 159/76(108)} mmHg
   RR: 40 (40 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,938 mL
                                                                    432 mL
   PO:
             TF:
                                                                    928 mL
                                                                    232 mL
   IVF:
                                                                    750 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    365 mL
   Urine:
                                                                  1,355 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    583 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 250 (250 - 250) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 143
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.53/33/85.[**Numeric Identifier 299**]/24/4
   Ve: 14 L/min
   PaO2 / FiO2: 213
   Physical Examination
   GEN: s/p Tracheostomy. Withdraws extremities to pain, does not follow
   commands.
   SKIN: Edematous. Warm, improvement of rash. Bullae around PEG tube.
   HEENT: dry MM, w labial lesions
   CHEST: Ronchi present bilaterally
   CV: RRR, no Murmurs
   ABD: soft, ND, PEG tube dressing c/d/i
   EXT: less edema, arms>legs
   Labs / Radiology
   217 K/uL
   9.1 g/dL
   135 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.2 mEq/L
   17 mg/dL
   102 mEq/L
   131 mEq/L
   26.7 %
   7.9 K/uL
         [image002.jpg]
                             [**2143-5-31**]  04:43 AM
                             [**2143-5-31**]  12:46 PM
                             [**2143-5-31**]  03:32 PM
                             [**2143-6-1**]  03:56 AM
                             [**2143-6-1**]  04:16 AM
                             [**2143-6-1**]  06:17 PM
                             [**2143-6-1**]  10:08 PM
                             [**2143-6-2**]  03:19 AM
                             [**2143-6-3**]  03:27 AM
                             [**2143-6-3**]  05:07 AM
   WBC
   6.5
   8.3
   7.9
   Hct
   25.8
   25.9
   26.7
   Plt
   [**Telephone/Fax (3) 6927**]
   Cr
   0.6
   0.6
   0.7
   TCO2
   27
   27
   28
   28
   29
   29
   28
   Glucose
   149
   144
   135
   Other labs: PT / PTT / INR:13.2/27.6/1.1, ALT / AST:28/38, Alk Phos / T
   Bili:86/0.4, Differential-Neuts:79.0 %, Lymph:14.2 %, Mono:5.1 %,
   Eos:1.5 %, Fibrinogen:547 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.1
   g/dL, LDH:201 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   77M w [**Hospital 6812**] transferred from OSH for respiratory failure from likely
   PNA, now w intermittent low fevers.
   # Fever: likely from infxn
 PNA (HAP) vs UTI vs line infxn vs other.
   Sputum with GNR and yeast.
   - on  vanc/zosyn/cipro for HAP for 8 day course
   - f/u cxs
   # Respiratory failure: Unclear etiology, likely pneumonia in the
   setting of COPD, worsened by anxiety. DDx also includes Cryptogenic
   Organizing PNA (COP) vs PE (but low suspicion). Off abx since [**5-24**],
   restarted [**6-2**].  S/p trach on [**2143-5-28**]. Worsened by anxiety. Now has
   non-fermenter bacteria in sputum with likely secondary PNA.
   - possible infection (HAP)
 CT [**5-30**]: multifocal PNA w effusions L>R,
   infiltrate in Left lingua area
   ----- vanc/zosyn/cipro ([**6-2**] - _
   ----- blood cx pending, so far negative
   ----- consider thoracentesis for cx, but not large enough per IP to tap
   - anxiety
   ----- hold olanzapine, started celexa
   ----- changing lorazepam to haldol
   - possible small subsegmental PE, but unclear on CT scan, was not a CTA
   protocol scan, LE U/S negative for DVT, low suspicion at this point.
   Holding off on anticoagulation or CTA Chest.
   - possible COP, and underlying COPD, holding off on steroids
   - ventilation support, wean as tolerated
   - follow daily cxr
   # ? UTI: likely yeast, UA w improvement after Foley change.
   - f/u urine cx
   # Hematuria: Unclear etiology, may be from foley trauma, improved.
   - monitor for now
   # Proteinuria:  Normal creatinine and no evidence of glomerulonephritis
   that would make us think of a pulmonary-renal syndrome.  There is no
   history of diabetes.  Significant protein in urine on repeat despite
   changing Foley.  Cultures growing only yeast. Improving protein/Cr
   ratio
 now 2.2 from 2.5.
   - monitor renal function
   # Anemia: Normocytic, baseline Hct ~31. Unclear etiology, but likely
   2/2 blood loss from hematuria and procedures (trach/PEG) in the setting
   of anemia of chronic disease.  Stable ~26.
   - monitor Hct daily
   - transfuse for Hct < 21
   # Hypoalbuminemia: [**1-28**] malnutrition/proteinuria in the setting of
   systemic inflammatory process.
   - continue nutrition with tube feeds w transition to PEG
   - monitor albumin
   # Hyponatremia: Appears to be SIADH, likely from lung process.
   - monitor [**Hospital1 **] lytes
   # Rash:
   - Bullous abdominal lesions: likely allergic rxn to chlorhexidine prep
   at the time of the PEG ([**5-30**])
 monitor for now, improving
   - Mucocutaneous lesions:  DFA negative for HSV, culture pending.
   Unlikely Zoster given b/l lesions. Completed acyclovir x 7d.
   - Diffuse torso/LE rash: likely [**1-28**] drug rxn
 abx (CTX, vanc,
   levofloxacin
 stopped on [**5-23**]) vs famotidine (stopped on [**5-26**]) vs
   acyclovir (stopped on [**5-28**]) vs fentanyl (stopped on [**5-28**]), no
   eosinophilia on diff; previously with urine eos. Resolved.
   # Goals of Care: full code w plan for LTAC (long-term acute care)
   facility placement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-6-2**] 04:08 AM 35.[**Telephone/Fax (5) 6905**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-5-25**] 07:03 PM
   22 Gauge - [**2143-5-29**] 06:00 PM
   Arterial Line - [**2143-5-30**] 01:55 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: sucralfate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: continue ICU care, transfer to long term acute care once
   fevers and PNA improve

2143-06-04 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-3**]
   - PS trial in PM
   - Pt more alert per family
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2143-6-2**] 06:05 PM
   Vancomycin - [**2143-6-3**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2143-6-3**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-6-3**] 08:00 PM
   Morphine Sulfate - [**2143-6-3**] 09:30 PM
   Haloperidol (Haldol) - [**2143-6-3**] 11:00 PM
   Lorazepam (Ativan) - [**2143-6-4**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-6-4**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 101 (71 - 104) bpm
   BP: 149/71(103) {95/46(62) - 161/82(110)} mmHg
   RR: 32 (20 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,004 mL
                                                                    369 mL
   PO:
             TF:
                                                                    804 mL
                                                                    248 mL
   IVF:
                                                                    860 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    510 mL
   Urine:
                                                                  1,940 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     64 mL
                                                                   -141 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 510 (460 - 520) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.48/36/99.[**Numeric Identifier **]/25/3
   Ve: 14.3 L/min
   PaO2 / FiO2: 250
   Physical Examination
   GEN: s/p Tracheostomy. Withdraws extremities to pain, does not follow
   commands.
   SKIN: Edematous. Warm, improvement of rash. Bullae around PEG tube.
   HEENT: dry MM, w labial lesions
   CHEST: Ronchi present bilaterally
   CV: RRR, no Murmurs
   ABD: soft, ND, PEG tube dressing c/d/i
   EXT: less edema, arms>legs
   Labs / Radiology
   236 K/uL
   9.1 g/dL
   124 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   103 mEq/L
   134 mEq/L
   26.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2143-6-1**]  03:56 AM
                             [**2143-6-1**]  04:16 AM
                             [**2143-6-1**]  06:17 PM
                             [**2143-6-1**]  10:08 PM
                             [**2143-6-2**]  03:19 AM
                             [**2143-6-3**]  03:27 AM
                             [**2143-6-3**]  05:07 AM
                             [**2143-6-3**]  06:20 PM
                             [**2143-6-4**]  04:56 AM
                             [**2143-6-4**]  05:29 AM
   WBC
   6.5
   8.3
   7.9
   6.6
   Hct
   25.8
   25.9
   26.7
   26.5
   Plt
   [**Telephone/Fax (3) 6957**]36
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   28
   29
   29
   28
   26
   28
   Glucose
   149
   144
   135
   124
   Other labs: PT / PTT / INR:13.2/27.6/1.1, ALT / AST:28/38, Alk Phos / T
   Bili:86/0.4, Differential-Neuts:50.6 %, Lymph:27.7 %, Mono:7.1 %,
   Eos:14.1 %, Fibrinogen:547 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.1
   g/dL, LDH:201 IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   77M w [**Hospital 6812**] transferred from OSH for respiratory failure from likely
   PNA, now w intermittent low fevers.
   # Fever: likely from infxn
 PNA (HAP) vs UTI vs line infxn vs other.
   Sputum with GNR- non-fermenter, and yeast.
   - on  vanc/zosyn/cipro for HAP for 8 day course
   - f/u cxs
   - repeat sputum cx
   # Respiratory failure: Unclear etiology, likely pneumonia in the
   setting of COPD, worsened by anxiety. DDx also includes Cryptogenic
   Organizing PNA (COP) vs PE (but low suspicion). Off abx since [**5-24**],
   restarted [**6-2**] once fevers reoccured.  S/p trach on [**2143-5-28**]. Worsened
   by anxiety. Now has non-fermenter bacteria in sputum with likely
   secondary PNA.
   - infection (HAP)
 CT [**5-30**]: multifocal PNA w effusions L>R, infiltrate
   in Left lingua area
   ----- vanc/zosyn/cipro ([**6-2**] - ) for 14 day course
   ----- blood cx pending, so far negative
   ----- consider thoracentesis for cx, but not large enough per IP to tap
   ----- repeat sputum cx
   - anxiety
   ----- hold olanzapine, started celexa
   ----- increase haldol dose and change to PO dose, monitor daily EKG
   - possible small subsegmental PE, but unclear on CT scan, was not a CTA
   protocol scan, LE U/S negative for DVT, low suspicion at this point.
   Holding off on anticoagulation or CTA Chest.
   - possible COP, and underlying COPD, holding off on steroids
   - ventilation support, wean as tolerated
   - follow daily cxr
   # Possible UTI: likely yeast, UA w improvement after Foley change.
   - f/u urine cx
   # Hematuria: Unclear etiology, may be from foley trauma, improved.
   - monitor for now
   # Proteinuria:  Normal creatinine and no evidence of glomerulonephritis
   that would make us think of a pulmonary-renal syndrome.  There is no
   history of diabetes.  Significant protein in urine on repeat despite
   changing Foley.  Cultures growing only yeast. Improving protein/Cr
   ratio
 now 2.2 from 2.5.
   - monitor renal function
   # Anemia: Normocytic, baseline Hct ~31. Unclear etiology, but likely
   2/2 blood loss from hematuria and procedures (trach/PEG) in the setting
   of anemia of chronic disease.  Stable.
   - monitor Hct daily
   - transfuse for Hct < 21
   # Hypoalbuminemia: [**1-28**] malnutrition/proteinuria in the setting of
   systemic inflammatory process.
   - continue nutrition with tube feeds w transition to PEG
   - monitor albumin
   # Hyponatremia: Appears to be SIADH, likely from lung process.
   - monitor daily lytes
   # Rash:
   - Bullous abdominal lesions: likely allergic rxn to chlorhexidine prep
   at the time of the PEG ([**5-30**])
 monitor for now, improving
   - Mucocutaneous lesions:  DFA negative for HSV, culture pending.
   Unlikely Zoster given b/l lesions. Completed acyclovir x 7d.
   - Diffuse torso/LE rash: likely [**1-28**] drug rxn
 abx (CTX, vanc,
   levofloxacin
 stopped on [**5-23**]) vs famotidine (stopped on [**5-26**]) vs
   acyclovir (stopped on [**5-28**]) vs fentanyl (stopped on [**5-28**]), no
   eosinophilia on diff; previously with urine eos. Resolved.
   # Goals of Care: full code w plan for LTAC (long-term acute care)
   facility placement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-6-2**] 04:08 AM 35.[**Telephone/Fax (5) 6905**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-5-25**] 07:03 PM
   22 Gauge - [**2143-5-29**] 06:00 PM
   Arterial Line - [**2143-5-30**] 01:55 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: sucralfate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: continue ICU care, transfer to long term acute care this
   week

2143-06-05 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2143-6-4**] 02:36 PM
 ARTERIAL LINE - STOP [**2143-6-4**] 03:00 PM
   - constipated - getting BM regimen, but no BM yet
   - left radial a-line d/c'd
   - increased haldol for agitation
   - net positive --> furosemide 20mg IV x 1 at MN, good UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-6-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2143-6-5**] 06:02 AM
   Ciprofloxacin - [**2143-6-5**] 06:02 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2143-6-4**] 09:35 AM
   Haloperidol (Haldol) - [**2143-6-4**] 02:00 PM
   Furosemide (Lasix) - [**2143-6-5**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2143-6-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-6-5**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (99
   HR: 99 (75 - 105) bpm
   BP: 145/57(78) {98/51(65) - 163/80(97)} mmHg
   RR: 38 (20 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,911 mL
                                                                    584 mL
   PO:
             TF:
                                                                    811 mL
                                                                    252 mL
   IVF:
                                                                    840 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                  1,190 mL
   Urine:
                                                                  1,660 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    251 mL
                                                                   -606 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 405 (375 - 449) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: ///27/
   Ve: 12.3 L/min
   Physical Examination
   GEN: s/p Tracheostomy. Withdraws extremities to pain, does not follow
   commands.
   SKIN: Edematous. Warm, improvement of rash. Bullae around PEG tube.
   HEENT: dry MM, w labial lesions
   CHEST: Ronchi present bilaterally
   CV: RRR, no Murmurs
   ABD: soft, ND, PEG tube dressing c/d/i
   EXT: less edema, arms>legs
   Labs / Radiology
   241 K/uL
   9.1 g/dL
   154 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.8 mEq/L
   18 mg/dL
   99 mEq/L
   134 mEq/L
   26.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2143-6-1**]  04:16 AM
                             [**2143-6-1**]  06:17 PM
                             [**2143-6-1**]  10:08 PM
                             [**2143-6-2**]  03:19 AM
                             [**2143-6-3**]  03:27 AM
                             [**2143-6-3**]  05:07 AM
                             [**2143-6-3**]  06:20 PM
                             [**2143-6-4**]  04:56 AM
                             [**2143-6-4**]  05:29 AM
                             [**2143-6-5**]  03:59 AM
   WBC
   8.3
   7.9
   6.6
   7.2
   Hct
   25.9
   26.7
   26.5
   26.0
   Plt
   245
   217
   236
   241
   Cr
   0.6
   0.7
   0.7
   0.8
   TCO2
   28
   29
   29
   28
   26
   28
   Glucose
   144
   135
   124
   154
   Other labs: PT / PTT / INR:13.2/27.6/1.1, ALT / AST:28/38, Alk Phos / T
   Bili:86/0.4, Differential-Neuts:50.6 %, Lymph:27.7 %, Mono:7.1 %,
   Eos:14.1 %, Fibrinogen:547 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.1
   g/dL, LDH:201 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RASH
 .H/O FUNGAL INFECTION, OTHER
 PNEUMONIA, OTHER
   unclear cause
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   Underlying emphysema
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   oral mucocutaneous ulceration, urine eosinophilia
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
 DELIRIUM / CONFUSION
   77M w [**Hospital 6812**] transferred from OSH for respiratory failure from likely
   PNA, now w intermittent low fevers.
   # Fever: likely from infxn
 PNA (HAP) vs UTI vs line infxn vs other.
   Sputum with GNR- non-fermenter, and yeast.
   - on  vanc/zosyn/cipro for HAP for 8 day course
   - f/u cxs
   - repeat sputum cx
   # Respiratory failure: Unclear etiology, likely pneumonia in the
   setting of COPD, worsened by anxiety. DDx also includes Cryptogenic
   Organizing PNA (COP) vs PE (but low suspicion). Off abx since [**5-24**],
   restarted [**6-2**] once fevers reoccured.  S/p trach on [**2143-5-28**]. Worsened
   by anxiety. Now has non-fermenter bacteria in sputum with likely
   secondary PNA.
   - infection (HAP)
 CT [**5-30**]: multifocal PNA w effusions L>R, infiltrate
   in Left lingua area
   ----- vanc/zosyn/cipro ([**6-2**] - ) for 14 day course
   ----- blood cx pending, so far negative
   ----- consider thoracentesis for cx, but not large enough per IP to tap
   ----- repeat sputum cx
   - anxiety
   ----- hold olanzapine, started celexa
   ----- increase haldol dose and change to PO dose, monitor daily EKG
   - possible small subsegmental PE, but unclear on CT scan, was not a CTA
   protocol scan, LE U/S negative for DVT, low suspicion at this point.
   Holding off on anticoagulation or CTA Chest.
   - possible COP, and underlying COPD, holding off on steroids
   - ventilation support, wean as tolerated
   - follow daily cxr
   # Possible UTI: likely yeast, UA w improvement after Foley change.
   - f/u urine cx
   # Hematuria: Unclear etiology, may be from foley trauma, improved.
   - monitor for now
   # Proteinuria:  Normal creatinine and no evidence of glomerulonephritis
   that would make us think of a pulmonary-renal syndrome.  There is no
   history of diabetes.  Significant protein in urine on repeat despite
   changing Foley.  Cultures growing only yeast. Improving protein/Cr
   ratio
 now 2.2 from 2.5.
   - monitor renal function
   # Anemia: Normocytic, baseline Hct ~31. Unclear etiology, but likely
   2/2 blood loss from hematuria and procedures (trach/PEG) in the setting
   of anemia of chronic disease.  Stable.
   - monitor Hct daily
   - transfuse for Hct < 21
   # Hypoalbuminemia: [**1-28**] malnutrition/proteinuria in the setting of
   systemic inflammatory process.
   - continue nutrition with tube feeds w transition to PEG
   - monitor albumin
   # Hyponatremia: Appears to be SIADH, likely from lung process.
   - monitor daily lytes
   # Rash:
   - Bullous abdominal lesions: likely allergic rxn to chlorhexidine prep
   at the time of the PEG ([**5-30**])
 monitor for now, improving
   - Mucocutaneous lesions:  DFA negative for HSV, culture pending.
   Unlikely Zoster given b/l lesions. Completed acyclovir x 7d.
   - Diffuse torso/LE rash: likely [**1-28**] drug rxn
 abx (CTX, vanc,
   levofloxacin
 stopped on [**5-23**]) vs famotidine (stopped on [**5-26**]) vs
   acyclovir (stopped on [**5-28**]) vs fentanyl (stopped on [**5-28**]), no
   eosinophilia on diff; previously with urine eos. Resolved.
   # Goals of Care: full code w plan for LTAC (long-term acute care)
   facility placement
   ICU Care
   Lines:
   PICC Line - [**2143-5-25**] 07:03 PM
   Nutrition:
   Nutren 2.0 (Full) - [**2143-6-2**] 04:08 AM 35.[**Telephone/Fax (5) 6905**] mL/hour
   Glycemic Control:
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: sucralfate
   Communication:  Comments:
   Code status: Full code
   Disposition: continue ICU care, transfer to long term acute care this
   week